US08304557B2
(iv) N-{3-[(1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide
To a solution of N-{3-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide (2.7 g, 5.12 mmol) in N,N-dimethylformamide (18 mL) was added N,N-diisopropylethylamine (0.94 mL, 5.38 mmol), and the mixture was stirred at room temperature for 15 min. 2-Iodoacetamide (995 mg, 5.38 mmol) was added to the reaction mixture, and the mixture was stirred at room temperature for 18 hr. Water (200 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate (300 mL). The organic layer was washed with water (100 mL) and saturated brine (100 mL), and dried over anhydrous sodium sulfate. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=60/40→0/100) and recrystallized from ethyl acetate and hexane to give the title compound (1.84 g, 61%) as a colorless solid.

reactant | N-{3-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide | 5.12 mmol, 2.7 g | CC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=N1)OC=1C=C(C=CC1)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C26H20F3N3O4S
reactant | N,N-diisopropylethylamine | 5.38 mmol, 0.94 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-Iodoacetamide | 5.38 mmol, 995 mg | ICC(=O)N | C2H4INO
reactant | Water | 200 mL | O | H2O
solvent | N,N-dimethylformamide | 18 mL | CN(C=O)C | C3H7NO
product | N-{3-[(1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide | 1.84 g, 61% | NC(CN1C=C(C=CC1=NS(=O)(=O)C1=CC=C(C=C1)C)OC=1C=C(C=CC1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C28H23F3N4O5S
